US07223785B2
Methyl 3-cyclohexyl-6-indole carboxylate (carbonate/iodomethane procedure)
A 2 L flask equipped with a dropping funnel and mechanical stirrer was charged with crude 3-cyclohexyl-6-indole carboxylic acid (99.4 g, 0.409 mole) and anhydrous DMF (665 mL) was added followed by anhydrous potassium carbonate (78.13 g, 0.565 mole). Iodomethane (63.72 g, 0.449 mole) was added dropwise over 35 min with stirring to the slurry which was then stirred overnight at room temperature until complete disappearance of starting material (TLC). The resulting suspension was then poured into water (1350 mL) and acidified to pH 4 with 4N HCl (200 mL). The product was extracted into ether (3×1700 mL), washed with water and brine and dried (Na2SO4). Volatiles were removed under reduced pressure and the residue was triturated with hexane (700 mL). The beige solid was filtered and dried under vacuum (94.3 g, 90% yield).

reactant | 3-cyclohexyl-6-indole carboxylic acid | 0.409 mole, 99.4 g | C1(CCCCC1)C1=CNC2=CC(=CC=C12)C(=O)O | C15H17NO2
reactant | potassium carbonate | 0.565 mole, 78.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | Iodomethane | 0.449 mole, 63.72 g | IC | CH3I
reactant | HCl | 4N, 200 mL | Cl | ClH
solvent | water | 1350 mL | O | H2O
solvent | DMF | 665 mL | CN(C)C=O | C3H7NO
product | Methyl 3-cyclohexyl-6-indole carboxylate | 90% yield | C1(CCCCC1)C1=CNC2=CC(=CC=C12)C(=O)OC | C16H19NO2
